US09371281B2
A solution of 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid (64 mg, 0.16 mmol), DIPEA (0.14 mL, 0.8 mmol), HATU (68 mg, 0.18 mmol), hydroxyl amine hydrochloride (56 mg, 0.8 mmol) and DMF (4 mL) was stirred for 19 hr at room temperature. The reaction mixture was then subjected to HPLC purification to provide 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid hydroxyamide (22 mg, 34% yield). 1H NMR (400 MHz, DMSO) δ 11.06 (s, 1H), 10.18 (s, 1H), 7.99 (s, 1H), 7.93 (d, 2H, J=7.2 Hz), 7.67 (d, 2H, J=8.7 Hz), 7.57 (m, 2H), 7.53 (d, 2H, J=7.7 Hz), 7.43 (d, 1H, J=8.2 Hz), 7.27 (d, 2H, J=8.2 Hz), 7.19 (s, 1H), 4.03 (s, 2H), 3.76 (s, 3H).

reactant | 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid | 0.16 mmol, 64 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)CC1=CN(C2=CC=C(C=C12)C(=O)O)C | C24H20N2O3
reactant | DIPEA | 0.8 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | hydroxyl amine hydrochloride | 0.8 mmol, 56 mg | Cl.ON
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid hydroxyamide | 22 mg, 34% yield | ONC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C24H21N3O3
